US05811548
15.0 ml of triethyl orthoformate were added at room temperature to a solution of 4.90 g (20.3 mmol) of 10-methyl-phenothiazine-4-carbaldehyde and 50 mg of p-toluenesulphonic aci×1H2O in 15 ml of methanol. The reaction mixture was boiled at reflux for 45 minutes, cooled and poured into 30 g of ice, 30 ml of saturated aqueous sodium hydrogen carbonate solution and 100 ml of diethyl ether. The organic phase was washed with 50 ml of saturated sodium chloride solution, dried over magnesium sulphate and concentrated. The residue was chromatographed on 300 g of silica gel with diethyl ether/hexane (1:4), whereupon, after crystallization from diethyl ether/hexane in a refrigerator, 6.16 g (96.2%) of 4-diethoxymethyl-10-methyl-phenothiazine were obtained as a white solid of m.p. 44.6°-46.2°.

reactant | triethyl orthoformate | 15.0 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | 10-methyl-phenothiazine-4-carbaldehyde | 20.3 mmol, 4.90 g | CN1C2=CC=CC=C2SC=2C(=CC=CC12)C=O | C14H11NOS
reactant | sodium hydrogen carbonate | 30 ml | C(O)([O-])=O.[Na+]
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | methanol | 15 ml | CO | CH4O
product | 4-diethoxymethyl-10-methyl-phenothiazine | 6.16 g, 96.2% | C(C)OC(C1=CC=CC=2N(C3=CC=CC=C3SC12)C)OCC | C18H21NO2S
